US06727264B1
1-(4-CHLOROBUTOXY)-2-METHOXYBENZENE:
Prepared by Procedure U and Scheme AK using 2-methoxyphenol and 1-bromo-4-chlorobutane.

reactant | 2-methoxyphenol | COC1=C(C=CC=C1)O | C7H8O2
reactant | 1-bromo-4-chlorobutane | BrCCCCCl | C4H8BrCl
product | 1-(4-CHLOROBUTOXY)-2-METHOXYBENZENE | ClCCCCOC1=C(C=CC=C1)OC | C11H15ClO2
